US05078748
(A) Preparation of 4-((2-hydroxypropyl)amino)-5-trifluoromethyl-1,3-dinitrobenzene
27 g of 4-chloro-5-trifluoromethyl-1,3-dinitrobenzene are initially introduced into 100 ml of water with 5.3 g of Na2CO3, and 13.5 g of 1-aminopropan-2-ol are added at 80° C. in the course of 30 minutes. The mixture is subsequently stirred at 80° C. for one hour and then cooled to room temperature, and the product which has precipitated is filtered off and dried in a vacuum drying cabinet.

reactant | 4-chloro-5-trifluoromethyl-1,3-dinitrobenzene | 27 g | ClC1=C(C=C(C=C1C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C7H2ClF3N2O4
reactant | Na2CO3 | 5.3 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-aminopropan-2-ol | 13.5 g | NCC(C)O | C3H9NO
solvent | water | 100 ml | O | H2O
product | 4-((2-hydroxypropyl)amino)-5-trifluoromethyl-1,3-dinitrobenzene | OC(CNC1=C(C=C(C=C1C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-])C | C10H10F3N3O5
